US07238716B2
A mixture of 3-[3-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzylthio]benzoic acid (3.20 g), conc. sulfuric acid (1 mL) and methanol (50 mL) was stirred with heating under reflux for 1 hr. The reaction mixture was concentrated, water was added to the residue and the mixture was extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give methyl 3-[3-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzylthio]benzoate as an oil (2.20 g, yield 67%) from a fraction eluted with ethyl acetate-hexane (1:4, v/v).

reactant | 3-[3-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzylthio]benzoic acid | 3.20 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC=1C=C(CSC=2C=C(C(=O)O)C=CC2)C=CC1 | C25H21NO4S
reactant | sulfuric acid | 1 mL | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 50 mL | CO | CH4O
product | methyl 3-[3-[(5-methyl-2-phenyl-4-oxazolyl)methoxy]benzylthio]benzoate | 2.20 g, yield 67% | CC1=C(N=C(O1)C1=CC=CC=C1)COC=1C=C(CSC=2C=C(C(=O)OC)C=CC2)C=CC1 | C26H23NO4S
